US07138517B2
O. N2-Isobutyryl-9-(3′,5′-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine
N2-Isobutyryl-9-(2′-isobutyryl-3′,5′-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine (5.58 g) was dissolved in pyridine-MeOH—H2O (65:30:15, 52 mL) at room temperature. The solution was cooled to 0° C. and 52 mL of 2 N NaOH in EtOH—MeOH (95:5) was added slowly, followed by stirring for 2 hours at 0° C. Glacial acetic acid was added to pH 6, and saturated NaHCO3 was added to pH 7. The reaction mixture was evaporated under reduced pressure and the residue coevaporated with toluene. The residue was then dissolved in EtOAc (150 mL) and washed 3× with saturated NaHCO3. The organic phase was evaporated and the residue purified by silica gel column chromatography using EtOAc-MeOH (95:5) as the eluent, yielding 3.85 g (78.3%) of product.

reactant | N2-Isobutyryl-9-(2′-isobutyryl-3′,5′-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine | 5.58 g | C(C(C)C)(=O)NC=1NC(C=2N=CN(C2N1)[C@H]1[C@@H](O)[C@H](OC2OCCCC2)[C@H](O1)COC1(OCCCC1)C(C(C)C)=O)=O | C28H41N5O9
reactant | NaOH | 2 N, 52 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine MeOH—H2O | 52 mL | N1=CC=CC=C1.CO.O
solvent | EtOH MeOH | CCO.CO
product | N2-Isobutyryl-9-(3′,5′-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine | 3.85 g, 78.3% | C(C(C)C)(=O)NC=1NC(C=2N=CN(C2N1)[C@H]1[C@@H](O)[C@H](OC2OCCCC2)[C@H](O1)COC1OCCCC1)=O | C24H35N5O8
